US06403586B1
Preparation of 2-Ethyl-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and ethyl iodide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 79.4%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-Ethyl-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 79.4% | C(C)N1N=C(C=C(C1=O)C(=O)OC)C1=CC=C(C=C1)OC | C15H16N2O4
